US07166595B2
a) N-[(R)-1-(1-Benzyl-4,5-dimethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-4-methyl-benzamide
To 2-((R)-1-amino-2-methyl-propyl)-3-benzyl-5,6-dimethyl-3H-pyrimidin-4-one (50 mg, 0.175 mMol) and triethylamine (49 μL, 0.350 mMol) in CH2Cl2 was add 4-methyl-benzoyl chloride (21 μL, 0.157 mMol) was added. The reaction was stirred at RT for 48 h, quenched with water and extracted with ethyl acetate (3×20 mL). The combined organic layers were dried (Na2SO4), filtered, and evaprated to give the title compound (50 mg, 72%) as colorless oil. MS (ES) m/e 404.2 (M+H)+.

reactant | 2-((R)-1-amino-2-methyl-propyl)-3-benzyl-5,6-dimethyl-3H-pyrimidin-4-one | 0.175 mMol, 50 mg | N[C@H](C(C)C)C1=NC(=C(C(N1CC1=CC=CC=C1)=O)C)C | C17H23N3O
reactant | triethylamine | 0.350 mMol, 49 μL | C(C)N(CC)CC | C6H15N
reactant | 4-methyl-benzoyl chloride | 0.157 mMol, 21 μL | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[(R)-1-(1-Benzyl-4,5-dimethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-4-methyl-benzamide | 50 mg, 72% | C(C1=CC=CC=C1)N1C(=NC(=C(C1=O)C)C)[C@@H](C(C)C)NC(C1=CC=C(C=C1)C)=O | C25H29N3O2
